US07538121B2
N-(4-Methyl-2-oxo-1,2-dihydro-quinolin-7-yl)-1,1′-biphenyl-4-carboxamide
Using the procedure outlined in Example 56, the title compound was prepared from 7-amino-4-methyl-1-H-quinolin-2-one (50 mg, 0.29 mmol) and 4-biphenylcarboxylic acid (68 mg, 0.34 mmol) as a cream solid. 1H NMR (250 MHz, DMSO) δ (ppm): 11.60 (br, 1H), 10.55 (br, 1H), 8.09 (d, 2H), 8.02 (s, 1H), 7.86 (d, 2H), 7.77 (d, 2H), 7.69 (d, 1H), 7.55 (dd, 1H), 7.52 (t, 2H), 7.43 (t, 1H), 6.29 (s, 1H), 2.41 (s, 3H).

reactant | 7-amino-4-methyl-1-H-quinolin-2-one | 0.29 mmol, 50 mg | NC1=CC=C2C(=CC(NC2=C1)=O)C | C10H10N2O
reactant | 4-biphenylcarboxylic acid | 0.34 mmol, 68 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
product | N-(4-Methyl-2-oxo-1,2-dihydro-quinolin-7-yl)-1,1′-biphenyl-4-carboxamide | CC1=CC(NC2=CC(=CC=C12)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C23H18N2O2
